US09428508B2
A suspension of methyl 2-(bromomethyl)-4-nitrobenzoate in ammonium solution (7 N in methanol, 5 mL) was stirred at room temperature for 2 hours and concentrated in vacuum to obtain a yellow solid. This crude solid was triturated with ethyl acetate (15 mL) and was then cooled at −20° C. The mixture was filtered to obtain the product 5-nitroisoindolin-1-one as yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.04 (br s, 1H), 8.48 (d, 1H, J=2.0 Hz), 8.25 (dd, 1H, J=2.0 Hz, 8.4 Hz), 7.91 (d, 1H, J=8.4 Hz), 4.51 (s, 2H).

reactant | methyl 2-(bromomethyl)-4-nitrobenzoate | BrCC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C9H8BrNO4
reactant | ammonium | 7 N, 5 mL | [NH4+]
product | 5-nitroisoindolin-1-one | [N+](=O)([O-])C=1C=C2CNC(C2=CC1)=O | C8H6N2O3
